US06090804
2) 1-(5-(4-Methylthiazol-2-yl)-2-thenyl]hexahydro-1H-azepine dihydrochloride
730 mg of chloroacetone was added to 30 ml of ethanol solution containing 2.0 g of 5-[(hexahydro-1H-azepin-1-yl)methyl]-2-thiophenecarbothioamide, and the mixture was stirred overnight at 80° C. The reaction solution was ice-cooled, adjusted to pH 1 by adding hydrochloric acid and then concentrated under a reduced pressure. The resulting residue was then recrystallized from acetonitrile to give 1.6 g of the title compound.

reactant | chloroacetone | 730 mg | ClCC(C)=O | C3H5ClO
reactant | 5-[(hexahydro-1H-azepin-1-yl)methyl]-2-thiophenecarbothioamide | 2.0 g | N1(CCCCCC1)CC1=CC=C(S1)C(N)=S | C12H18N2S2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(5-(4-Methylthiazol-2-yl)-2-thenyl]hexahydro-1H-azepine dihydrochloride | 1.6 g | Cl.Cl.CC=1N=C(SC1)C1=CC=C(S1)CN1CCCCCC1 | InChI=1S/C15H20N2S2.2ClH/c1-12-11-18-15(16-12)14-7-6-13(19-14)10-17-8-4-2-3-5-9-17;;/h6-7,11H,2-5,8-10H2,1H3;2*1H
